US08912188B2
To a solution of (S)-3-methyl-1-(pyridin-2-yl)piperazine (748 mg, 4.22 mmol) in NMP (5 ml), was added methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (1 g, 4.19 mmol). After stirring 1 h at 140° C., the resulting solution was quenched by the addition of water (100 ml) and filtered to give (S)-methyl 3-(2-methyl-4-(pyridin-2-yl)piperazin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a yellow solid (1.07 g, 67%).

reactant | (S)-3-methyl-1-(pyridin-2-yl)piperazine | 4.22 mmol, 748 mg | C[C@H]1CN(CCN1)C1=NC=CC=C1 | C10H15N3
reactant | methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 4.19 mmol, 1 g | ClC=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C10H7ClN2O3
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | (S)-methyl 3-(2-methyl-4-(pyridin-2-yl)piperazin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 1.07 g, 67% | C[C@@H]1N(CCN(C1)C1=NC=CC=C1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C20H21N5O3
